US04221869
Carnitine was synthesized as in example 2, except that yeast alcohol dehydrogenase, instead of being used as the purified free enzyme, was used in the unpurified and undissolved form. In fact cells of baker yeast (of high alcohol dehydrogenase content) were used after a treatment of permeabilization and immobilization in a polyacrylamide gel. The permeabilization treatment was effected as follows: 18 g of baker yeast cells were suspended in 36 ml of 40 mM potassium phosphate buffer at pH 8. After centrifugation and decantation, the cells were taken up again in 36 ml of the same buffer. 1.8 ml of a 1:4 (by volume) mixture of toluene and ethanol was added and incubation was effected at 30° C. for 30 minutes. It was then centrifuged and washed two times with 36 ml of buffer. The cells thus made permeable were immobilized in a gel prepared by suspending the cells in 4 ml of phosphate buffer (40 mM) at pH 8 and adding 500 mg of acrylamide, 40 mg of N,N' methylene bis acrylamide, 0.5 ml of N,N,N',N'-tetramethylethylethylene diamine at 0.805% concentration and 0.5 ml of ammonium persulfate at 2.5% concentration. The solution was poured into a vessel filled up with glass balls of a 2 mm diameter. The polymerization took place at 30° C. for 1 hour. The balls were removed, to leave a gel in fragments, which was washed with the same buffer.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acrylamide | 500 mg | C(C=C)(=O)N | C3H5NO
reactant | N,N' methylene bis acrylamide | 40 mg | C(NC(C=C)=O)NC(C=C)=O | C7H10N2O2
reactant | N,N,N',N'-tetramethylethylethylene diamine | 0.5 ml | CN(C(CN(C)C)CC)C | C8H20N2
reactant | ethanol | C(C)O | C2H6O
solvent | potassium phosphate | 40 mM, 36 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | phosphate | 40 mM, 4 ml | P(=O)([O-])([O-])[O-]
product | Carnitine | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
